US06599902B2
A mixture of 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (270 mg, 1.61 mmol), cyclopropyl-(S)-1-pyrrolidin-2-ylmethyl-amine (220 mg, 1.57 mmol), HOBt (199 mg, 1.47 mmol), EDAC (344 mg, 1.8 mmol) and TEA (0.5 mL) in DMF (7 mL) was stirred at rt for 48 hours. The reaction was concentrated, diluted with sodium bicarbonate and extracted with DCM. The combined DCM was dried, concentrated and filtered through silica gel to give 4-((S)-2-cyclopropylaminomethyl-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde.

reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 1.61 mmol, 270 mg | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | cyclopropyl-(S)-1-pyrrolidin-2-ylmethyl-amine | 1.57 mmol, 220 mg | C1(CC1)NC[C@H]1NCCC1 | C8H16N2
reactant | HOBt | 1.47 mmol, 199 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 1.8 mmol, 344 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 4-((S)-2-cyclopropylaminomethyl-pyrrolidine-1-carbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | C1(CC1)NC[C@H]1N(CCC1)C(=O)C=1C(=C(NC1C)C=O)C | C16H23N3O2
